US06590105B2
trans-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine
To a flask was added trans-N-benzyl-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl) cyclohexyl]amine (500 mg, 0.95 mmol) and ethanol (20 ml). To the stirred solution was added palladium (10% w/w on activated carbon, 200 mg, 0.19 mmol) as a slurry in ethanol (5 ml). The reaction vessel was evacuated, then placed under hydrogen. The reaction mixture was stirred vigorously under an atmosphere of hydrogen for 18 hr, then filtered through a celite plug, washing with methanol (100 ml). The solvent was removed in vacuo affording the title compound (402 mg, 97%) as a colourless oil. δH (CDCl3) 0.01 (6H, s), 0.05 (6H, s), 0.78 (9H, s), 0.82 (9H, s), 1.08 (2H, m), 1.21 (2H, m), 1.62 (2H, m), 1.78 (2H, m), 2.59 (2H, m), 6.11 (1H, d), 6.22 (1H, dd), 6.78 (1H, d).

reactant | trans-N-benzyl-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl) cyclohexyl]amine | 0.95 mmol, 500 mg | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C31H51NO2Si2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium | 0.19 mmol, 200 mg | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | trans-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine | 402 mg, 97% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)N | C24H45NO2Si2
